Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left sided numbness and facial droop
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ current smoker without significant 
past medical history who presents with left-sided numbness and 
facial droop.

Last known well ___ at 2am. Patient was in his usual 
state of health, went to bed and woke up this morning with 
left-sided numbness that included his face, arm and leg. He said 
that throughout the day the left facial numbness pretty much 
stayed the same, but the left arm numbness got more intense. He 
also states that the left lower extremity numbness got better 
throughout the day. His current symptoms are mild left facial 
numbness, left upper extremity numbness and left lower extremity 
numbness only in his toes. In addition to that he noticed that 
the left side of his lower face looked a little droopy. He also 
endorsed a ___ minute episode of blurry vision that occurred 
the same morning. He denied any diplopia, no focal weakness, no 
vertigo, no nausea, no emesis, no gait difficulty, no headache, 
no back pain. No recent neck massages, or heavy exercise, heavy 
lifting. This never happened to him before. No history of 
stroke.
 
Past Medical History:
None
 
Social History:
___
Family History:
Mother had a stroke
 
Physical Exam:
Vitals: T: Afebrile P: 80 r: 16  BP: 160/101 SaO2: 97% room air
- General: Awake, cooperative, NAD.
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to 
follow both midline and appendicular commands.  There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. 
V: decreased sensation 75% of normal in left V1 V2 V3 to 
pinprick
temperature and light touch 
VII: Mild left facial droop but activates symmetrically
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IP Quad Ham TA ___
L  5-   ___   ___-  5    5  5     5     5   5
R  5    ___   ___   5    5  5     5     5   5 

-DTRs:  
       [Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      2+       
     R  2+    2+     2+      2+         
Plantar response flexor bilaterally. 

-Sensory: Decreased sensation 75% to normal to light touch, 
pinprick, cold sensation in left upper extremity as well as left 
lower extremity starting from just below the knee all the way 
down to the foot. No extinction to DSS.

-Coordination: No intention tremor. No dysmetria on FNF 
bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  
 
Pertinent Results:
___ 04:12AM BLOOD %HbA1c-5.6 eAG-114
___ 04:12AM BLOOD Triglyc-93 HDL-45 CHOL/HD-4.9 
LDLcalc-157*
___ 04:12AM BLOOD TSH-1.4
___ 04:12AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:34AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG

TTE ___
The left atrium and right atrium are normal in cavity size. No 
atrial septal defect or patent foramen ovale is seen by 2D, 
color Doppler or saline contrast with maneuvers. The estimated 
right atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). Doppler parameters 
are indeterminate for left ventricular diastolic function. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis. Trace aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Trivial mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. 

IMPRESSION: No intracardiac source of embolism identified. Mild 
symmetric left ventricular hypertrophy with preserved global and 
regional biventricular systolic function. No significant 
valvular disease. 

CT HEAD:
There is no evidence for acute hemorrhage, vascular territorial 
infarction,
mass effect, or edema. The ventricles and sulci are normal in 
size and
appearance.
 
The basal cisterns remain patent. There is preservation of 
gray-white matter
differentiation.
 
A mucous retention cyst is noted in the right maxillary sinus. 
The remainder
of the paranasal sinuses, middle ear cavities, and mastoid air 
cells are
clear. The orbits are grossly unremarkable bilaterally.
 
CTA HEAD AND NECK:
The common carotid and vertebral arteries and their major 
branches appear
patent without high-grade stenosis or occlusion. There is no 
evidence of
internal carotid stenosis by NASCET criteria.
 
The left A1 segment is not visualized. The left A2 segment is 
supplied via
the anterior communicating artery. Otherwise, the vessels of the 
circle of
___ and their principal intracranial branches are patent 
without high-grade
stenosis, occlusion, or aneurysm formation. The dural venous 
sinuses are
patent.
 
OTHER:
The lungs apices are clear bilaterally. The thyroid gland is 
enlarged,
heterogeneous, and contains multiple prominent nodules. There is 
no cervical
lymphadenopathy by CT size criteria.
 
IMPRESSION:
1. No evidence for acute intracranial process.
2. Patent intracranial and neck vasculature without high-grade 
stenosis,
occlusion, dissection, or aneurysm greater than 3 mm.
3. Enlarged, heterogeneous, and multinodular thyroid gland, 
compatible with
multinodular goiter. Recommend dedicated nonurgent thyroid 
ultrasound.

MRI HEAD ___
1.  Study is moderately degraded by motion.
2.  No acute intracranial abnormality, with no definite evidence 
of acute
intracranial hemorrhage or infarct.
3.  Paranasal sinus disease, as described.
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with no significant past 
medical history who is admitted to the Neurology stroke service 
with left-sided numbness and facial droop secondary to transient 
ischemic attack. His stroke was most likely secondary to small 
vessel disease event given his risk factors. No atrial 
fibrillation was captured. His deficits improved greatly prior 
to discharge and the only notable deficit was slight left facial 
droop. 

His stroke risk factors include the following: 
1) DM: A1c 5.6%
2) Patent intracranial and neck vasculature without high-grade 
stenosis, occlusion, dissection, or aneurysm greater than 3 mm 
3) Hyperlipidemia: LDL 157. Initiated on Atorvastatin 80mg. 
4) poor diet
5) infrequent exercise 
An echocardiogram did not show a PFO on bubble study.

Other hospital issues included a positive UA. However, he was 
asymptomatic, so this was not treated. 

TRANSITIONAL ISSUES:
-Incidental imaging findings: Thyroid nodule. Ultrasound follow 
up recommended.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL = 157) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - Aspirin () Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient ischemic attack

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

You were hospitalized due to symptoms of left-sided numbness and 
facial droop resulting from an TRANSIENT ISCHEMIC ATTACK (TIA), 
a condition where a blood vessel providing oxygen and nutrients 
to the brain is temporarily blocked by a clot. The brain 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

TIA can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having a TIA. 
These same risk factors increase your risk of having a stroke, 
which is a like a TIA except the symptoms do not go away as 
quickly (and sometimes never go away). In order to prevent 
future TIAs or strokes, we plan to modify those risk factors. 
Your risk factors are:  

1. Smoking
2. High blood pressure
3. High cholesterol
4. Poor diet (high in salt and fat, with few fruits and 
vegetables)
5. Insufficient exercise

We are changing your medications as follows:  

* START: Aspirin 81 mg DAILY, Atorvastatin 80mg DAILY

 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body 
 
 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___